US04983619
(ii) 1-(1,1-Dimethylethyl)-4-tributylstannylbenzene
1-Bromo-4-(1,1-dimethylethyl)benzene (10.656 g) in dry tetrahydrofuran (40 ml) was added dropwise with stirring to magnesium metal (1.264 g) in dry tetrahydrofuran (10 ml). After the reaction had been initiated by warming the 1-bromo-4-(1,1-dimethylethyl)benzene was added dropwise at such a rate to maintain boiling of the solvent. After the addition the mixture was heated under reflux for 1 hour then cooled to room temperature and tri-n-butyltin chloride (14.12 ml) in dry tetrahydrofuran (20 ml) was added dropwise. The mixture was heated under reflux for 1 hour poured into ice water (300 ml), extracted with diethyl ether (2×100 ml), washed with sodium hydrogen carbonate (50 ml), dried (MgSO4) and the solvent removed in vacuo to give a yellow liquid which was poured on to flash silica gel (25 g) on a sinter. The product was washed through with hexane and the hexane was removed in vacuo to give a colourless liquid which was used directly in the next reaction.

reactant | 1-Bromo-4-(1,1-dimethylethyl)benzene | 10.656 g | BrC1=CC=C(C=C1)C(C)(C)C | C10H13Br
reactant | magnesium | 1.264 g | [Mg] | Mg
reactant | tri-n-butyltin chloride | 14.12 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(1,1-Dimethylethyl)-4-tributylstannylbenzene | CC(C)(C)C1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H13.3C4H9.Sn/c1-10(2,3)9-7-5-4-6-8-9;3*1-3-4-2;/h5-8H,1-3H3;3*1,3-4H2,2H3;
